US05578627
3-[2-tert-Butoxycarbonylamino-3-(2,3,4,5-tetrahydropyranyloxy)propoxy]-5-formylamino-1,2-benzoisoxazole is dissolved in 9 ml of tetrahydrofuran, and at 5°-10° C., 3.2 ml of a tetrahydrofuran solution (1M) of diborane is added, after which they are subjected to reaction at 20°-25° C. for one hour. Subsequently, 9 ml of water is added and the pH is adjusted to 0 with 6N hydrochloric acid, after which they are subjected to reaction at 20°-25° C. for one hour. The reaction mixture is concentrated under reduced pressure, ethyl acetate is added, and, after shaking, the aqueous layer is separated. Ethyl acetate is added again to the separated aqueous layer and the pH is adjusted to 11 with potassium carbonate, after which the organic layer is separated. The separated organic layer is washed with a saturated saline solution and dried over anhydrous magnesium sulfate, after which the solvent is removed by distillation under reduced pressure, to obtain 0.22 g of brown, oily 3-(2-amino-3-hydroxypropoxy)-5-methylamino-1,2-benzoisoxazole.

reactant | 3-[2-tert-Butoxycarbonylamino-3-(2,3,4,5-tetrahydropyranyloxy)propoxy]-5-formylamino-1,2-benzoisoxazole | C(C)(C)(C)OC(=O)NC(COC1=NOC2=C1C=C(C=C2)NC=O)COC2OCCCC2 | C21H29N3O7
reactant | diborane | B#B | B2
reactant | water | 9 ml | O | H2O
reactant | hydrochloric acid | 6N | Cl | ClH
solvent | tetrahydrofuran | 9 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1M, 3.2 ml | O1CCCC1 | C4H8O
product | 3-(2-amino-3-hydroxypropoxy)-5-methylamino-1,2-benzoisoxazole | NC(COC1=NOC2=C1C=C(C=C2)NC)CO | C11H15N3O3
